US09446130B2
(f) (S)-4-(8-amino-3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide
A solution of (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (30 mg, 0.04 mmol) in TFA (1.5 mL) was stirred at 110° C. for 2 hrs. The reaction mixture was purified by Pre-HPLC to give the title product.

reactant | (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 0.04 mmol, 30 mg | C1(CC1)C1=NN=C2N1CCC[C@H]2C2=NC(=C1N2C=CN=C1NCC1=C(C=C(C=C1)OC)OC)C1=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C1 | C37H34F3N9O3
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-4-(8-amino-3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC(=C1)C(F)(F)F)C=C2)[C@H]2C=1N(CCC2)C(=NN1)C1CC1 | C28H24F3N9O
